US06362178B1
2-[2-Ethoxy-5-(4-methylpiperazine-1-sulphonyl)-phenyl]-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride
300 mg (0.61 mmol) of 2-[2-ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are dissolved in a mixture of ether and dichloromethane and admixed with 2 ml of a 1M solution of HCl in ether. After 20 minutes, the precipitated solid is filtered off with suction and dried.

reactant | 2-[2-ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.61 mmol, 300 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | C23H32N6O4S
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[2-Ethoxy-5-(4-methylpiperazine-1-sulphonyl)-phenyl]-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one hydrochloride | Cl.C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | InChI=1S/C23H32N6O4S.ClH/c1-5-8-20-24-18(6-2)21-23(30)25-22(26-29(20)21)17-15-16(9-10-19(17)33-7-3)34(31,32)28-13-11-27(4)12-14-28;/h9-10,15H,5-8,11-14H2,1-4H3,(H,25,26,30);1H
